### PR TITLE
feat: show signature elaboration errors on body parse error

### LINKED ISSUE #3556: RFC: Show elaboration error in type even with parse errors in proof
### Proposal

If the type of a theorem has an elaboration error and the proof of the theorem has a parse error, the elaboration error is not shown. This often causes beginners to think that there is no error in the type of a theorem.

Example: in each of these theorems the type is nonsense and should shjow an error, but doesn't.
```lean
theorem foo1 : 3 4 := by
  simp [

theorem foo2 : 3 4 := by
  sim

theorem foo3 : 3 4 := by

theorem foo4 : 3 4 := by {

theorem foo5 : 3 4 := by 
  constructor
```

Related RFCs: #3555, #3554

### Community Feedback

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Show.20error.20in.20type.20even.20with.20parse.20error.20in.20proof)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by Kha**
Fixes #3556

### CODE REVIEW

File: src/Lean/Elab/DefView.lean [hunk 1]
```diff
@@ -84,10 +84,10 @@ instance : Language.ToSnapshotTree HeaderProcessedSnapshot where
 /-- State before elaboration of a mutual definition. -/
 structure DefParsed where
   /--
-  Input substring uniquely identifying header elaboration result given the same `Environment`.
-  If missing, results should never be reused.
+  Unstructured syntax object compromising the full "header" of the definition from the modifiers
```
Comment (nomeata) [inline src/Lean/Elab/DefView.lean:87]:
```suggestion
  Unstructured syntax object comprising the full "header" of the definition from the modifiers
```

File: src/Lean/Elab/DefView.lean [hunk 2]
```diff
@@ -106,6 +106,11 @@ end Snapshots
 structure DefView where
   kind          : DefKind
   ref           : Syntax
+  /--
+  An unstructured syntax object that compromises the "header" of the definition, i.e. everything up
```
Comment (nomeata) [inline src/Lean/Elab/DefView.lean:110]:
```suggestion
  An unstructured syntax object that comprises the "header" of the definition, i.e. everything up
```

**Comment by nomeata** [comment]
Sorry for the merge delay, hopefully nobody was eagerly waiting for the merge.
